US08106070B2
Pd(dppf)2Cl2 (396 mg, 0.54 mmol) was added to a degassed solution of 5-bromo-1-[(4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1-trityl-1H-imidazol-2-yl)methyl]indan-1-ol (7.1 g, 10.8 mmol), potassium acetate (3.2 g, 32.5 mmol), and bis(pinacolato)diboron (3 g, 11.9 mmol) in DMSO (108 mL). The solution was stirred at 90° C. overnight. The reaction mixture was partitioned between diethyl ether and water. The organic layer was separated, dried (MgSO4), filtered, and concentrated in vacuo to give a residue. The residue was purified by column chromatography eluting with 0-100% EtOAc/hexanes to give 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-[(4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1-trityl-1H-imidazol-2-yl)methyl]indan-1-ol.

reactant | 5-bromo-1-[(4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1-trityl-1H-imidazol-2-yl)methyl]indan-1-ol | 10.8 mmol, 7.1 g | BrC=1C=C2CCC(C2=CC1)(O)CC=1N(C=C(N1)CC1(CC1)C(F)(F)F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H32BrF3N2O
reactant | potassium acetate | 32.5 mmol, 3.2 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 11.9 mmol, 3 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | DMSO | 108 mL | CS(=O)C | C2H6OS
catalyst | Pd(dppf)2Cl2 | 0.54 mmol, 396 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-[(4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1-trityl-1H-imidazol-2-yl)methyl]indan-1-ol | CC1(OB(OC1(C)C)C=1C=C2CCC(C2=CC1)(O)CC=1N(C=C(N1)CC1(CC1)C(F)(F)F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C43H44BF3N2O3
